US04518604
1-[2-Chloro-2-(2,4-difluorophenyl)-3,3,3-trifluoropropyl]-1H-1,2,4-triazole
Imidazole (0.53 g, 7.8 mmole) was dissolved in dry acetonitrile (4 ml) and thionyl chloride (0.3 ml, 4.1 mmole) was added dropwise over 2 minutes followed by a solution of 2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3,3,3-trifluoropropan-2-ol (0.389 g, 1.25 mmole) in dry acetonitrile (12 ml). The mixture was stirred at room temperature for 24 hours and then heated to 70° C. for 1/2 hour. The cooled mixture was then poured into sodium bicarbonate solution and extracted with dichloromethane (3×100 ml). The combined dichloromethane extracts were washed once with water, dried over magnesium sulphate and evaporated. Chromatography of the residue on silica (230-400 mesh), eluting with 40:60 (by volume) ethyl acetate:hexane gave, after recrystallization from ethyl acetate/hexane, the title compound, 170 mg (41%), m.p. 87°-88° C.

reactant | Imidazole | 7.8 mmole, 0.53 g | N1C=NC=C1 | C3H4N2
reactant | thionyl chloride | 4.1 mmole, 0.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3,3,3-trifluoropropan-2-ol | 1.25 mmole, 0.389 g | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(F)(F)F)O | C11H8F5N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 1-[2-Chloro-2-(2,4-difluorophenyl)-3,3,3-trifluoropropyl]-1H-1,2,4-triazole | ClC(CN1N=CN=C1)(C(F)(F)F)C1=C(C=C(C=C1)F)F | C11H7ClF5N3
